US06861424B2
To a solution of 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(2-methoxycarbonylphenyl)ethyl]aminocarbonyl-4-methoxyquinoline (220 mg, 0.4 mmol) in methanol was added a solution of LiOH (3 mL, 0.25 M) and the resulting reaction mixture was stirred at ambient temperature overnight. The product was purified by preparative HPLC and lyophilization to afford 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(2-carboxyphenyl)ethyl]aminocarbonyl-4-methoxyquinoline as an orange solid, 140 mg (50%); NMR (DMSO-d6), 1.08 (t, 3), 3.40 (m, 10), 4.00 (q, 2), 4.04 (s, 3), 5.28 (m, 1), 7.26 (t, 1), 7.34 (m, 2), 7.42 (s, 1), 7.82 (m, 2), 8.06 (d, 1), 8.14 (d, 1H), 8.88 (d, 1) ppm.

reactant | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(2-methoxycarbonylphenyl)ethyl]aminocarbonyl-4-methoxyquinoline | 0.4 mmol, 220 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CC1=C(C=CC=C1)C(=O)OC)NC(=O)C1=NC2=CC=CC=C2C(=C1)OC | C29H32N4O7
reactant | LiOH | 0.25 M, 3 mL | [Li+].[OH-]
solvent | methanol | CO | CH4O
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(2-carboxyphenyl)ethyl]aminocarbonyl-4-methoxyquinoline | C(C)OC(=O)N1CCN(CC1)C(=O)C(CC1=C(C=CC=C1)C(=O)O)NC(=O)C1=NC2=CC=CC=C2C(=C1)OC | C28H30N4O7
